US09216972B2
To 6-bromo-3,4-dihydronaphthalen-1(2H)-one (0.475 g, 2.110 mmol) in toluene (5 mL) was added morpholine (0.735 mL, 8.44 mmol) at room temperature. The reaction mixture was cooled to 0° C. and titanium tetrachloride (1.0 M in toluene) (1.161 mL, 1.161 mmol) was added over a period of 3 min. The brown heterogeneous reaction mixture was allowed to come to room temperature and stirred for 20 h. The reaction mixture was diluted with 5 mL of anhydrous toluene and filtered over a thin pad of CELITE®. The filter pad was washed with addition anhydrous toluene (2×10 mL). The pale yellow filtrate was concentrated under reduced pressure to yield 4-(6-bromo-3,4-dihydronaphthalen-1-yl)morpholine (0.580 g, 1.972 mmol, 93% yield) as an oil.

reactant | 6-bromo-3,4-dihydronaphthalen-1(2H)-one | 2.110 mmol, 0.475 g | BrC=1C=C2CCCC(C2=CC1)=O | C10H9BrO
reactant | morpholine | 8.44 mmol, 0.735 mL | N1CCOCC1 | C4H9NO
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | titanium tetrachloride | 1.161 mmol, 1.0 M, 1.161 mL | [Ti](Cl)(Cl)(Cl)Cl
product | 4-(6-bromo-3,4-dihydronaphthalen-1-yl)morpholine | 1.972 mmol, 0.580 g, 93% yield | BrC=1C=C2CCC=C(C2=CC1)N1CCOCC1 | C14H16BrNO
